US06576766B1
(a) 2-Acetylamino-3-(3-bromo-4-hydroxy-phenyl)-propionic Acid Methyl Ester
To N-acetyl-L-tyrosine methyl ester (6 g, 25.3 mmol) in THF (60 mL) at rt was added NBS (5.4 g, 30.3 mmol) followed by five drops of sulfuric acid. The mixture was stirred for 16 h at rt The solvent was removed under reduced pressure and then water was added. The aqueous layer was extracted twice with EtOAc, and the combined extracts were dried over magnesium sulfate and concentrated to a solid. The solid was recrystallized from ethyl acetate/hexane (6 g, 75%). MS (M+H]+ 316.

reactant | N-acetyl-L-tyrosine methyl ester | 25.3 mmol, 6 g | COC([C@@H](NC(C)=O)CC1=CC=C(C=C1)O)=O | C12H15NO4
reactant | NBS | 30.3 mmol, 5.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | sulfuric acid | five drops | S(O)(O)(=O)=O | H2O4S
product | 2-Acetylamino-3-(3-bromo-4-hydroxy-phenyl)-propionic Acid Methyl Ester | COC(C(CC1=CC(=C(C=C1)O)Br)NC(C)=O)=O | C12H14BrNO4
